US04559177
To a dimethylformamide solution (35 ml) of 2,3,4-trimethoxy-6-methyl aniline (3.4 g) is added bis(salicylidene)ethylenediiminocobalt(II) (120 mg), followed by stirring in oxygen streams at atmospheric temperature and pressure for 72 hours. The reaction product is isolated in the same manner as Example 7 and recrystallized from hexane. The above procedure yields 2,3-dimethoxy-5-methyl-1,4-benzoquinone (2.9 g) as orange-yellow needles melting at 59° C.-60° C.

reactant | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
reactant | 2,3,4-trimethoxy-6-methyl aniline | 3.4 g | COC1=C(N)C(=CC(=C1OC)OC)C | C10H15NO3
solvent | oxygen | O=O | O2
catalyst | salcomine | 120 mg | C1=CC=C(C(=C1)C=NCCN=CC2=CC=CC=C2[O-])[O-].[Co+2]
product | 2,3-dimethoxy-5-methyl-1,4-benzoquinone | 2.9 g | COC=1C(C=C(C(C1OC)=O)C)=O | C9H10O4
